US03959301
2-Chloro-5-phenyl-1,3,4-thiadiazole
A stirred mixture of 74.4 g (0.50 mole) of 5-phenyl-2H-tetrazole and 74.0 g (0.65 mole) of thiophosgene in 550 ml of dimethoxyethane was allowed to reflux overnight. The reaction mixture was cooled and filtered. The filtrate was taken to dryness at reduced pressure and the resulting residue leached with two 220-ml portions of hexane. Upon cooling and concentration of the combined hexane portions 40.5 g of the desired product was obtained: mp 82°-84° (lit. 86°-88°).

reactant | 5-phenyl-2H-tetrazole | 0.50 mole, 74.4 g | C1(=CC=CC=C1)C=1N=NNN1 | C7H6N4
reactant | thiophosgene | 0.65 mole, 74.0 g | C(=S)(Cl)Cl | CCl2S
solvent | dimethoxyethane | 550 ml | C(OC)COC | C4H10O2
product | 2-Chloro-5-phenyl-1,3,4-thiadiazole | 40.5 g | ClC=1SC(=NN1)C1=CC=CC=C1 | C8H5ClN2S
